US06093749
To 1,600 g of the anhydrous zinc antimonate aqueous sol used in Example 1 was add ed 5.0 g of methyltrimethoxysilane (manufactured by Toray Dow Corning Silicone Co., Ltd., trade name SZ6070) and the mixture was stirred at room temperature for 1.5 hours with a disper. To this were added 0.71 g of diusopropylamine and 1.0 g of malic acid, followed by mixing with stirring at room temperature for 4 hours with a disper to obtain a colloid solution of anhydrous zinc antimonate having the surface of whose particles is coated with methyltrimethoxysilane or its hydrolysate. The colloid solution had a pH of 4.1. The aqueous solvent of the surface-modified anhydrous zinc antimonate colloid solution was substituted by a methanol solvent and then by an isopropyl alcohol solvent using a rotary evaporator to produce surface-modified anhydrous zinc antimonate isopropyl alcohol sol. The resulting isopropyl alcohol sol contained 27.5% of ZnO.Sb2O5 and the amount of Silane coupling agent coated was 0.5% by weight in terms of SiO2 based on the weight of ZnO.Sb2O5. The solution obtained by mixing this sol with water in a weight ratio of 1:1 had a pH of 5.1, and a primary particle diameter of 15 to 50 nm by transmission electron microscopic observation and aggregated particle size of 170 nm by laser scattering particle size distribution analyzer. A dry product of the sol had a volume resistivity of 1,500 Ω·cm.

reactant | methyltrimethoxysilane | C[Si](OC)(OC)OC | C4H12O3Si
reactant | zinc antimonate | [Sb]([O-])([O-])([O-])=O.[Zn+2].[Sb]([O-])([O-])([O-])=O.[Zn+2].[Zn+2]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
product | zinc antimonate isopropyl alcohol | C(C)(C)O.[Sb]([O-])([O-])([O-])=O.[Zn+2].[Sb]([O-])([O-])([O-])=O.[Zn+2].[Zn+2] | InChI=1S/C3H8O.8O.2Sb.3Zn/c1-3(2)4;;;;;;;;;;;;;/h3-4H,1-2H3;;;;;;;;;;;;;/q;;;6*-1;;;3*+2
